US04244957
1.0 g. of ethyl 4-{[2-[(2,6-dichlorophenyl)imino]-1-imidazolidinyl]oxy}butyrate is left to stand in 20 ml. of methanolic hydrochloric acid at room temperature overnight. The reaction mixture is then evaporated to dryness with toluene. Sodium carbonate and ether are added to the residue. The organic phase is dried over sodium sulfate and evaporated to dryness. Recrystallization of the residue from cyclohexane gave methyl 4-{[2-[(2,6-dichlorophenyl)imino]-1-imidazolidinyl]oxy}butyrate, m.p. 95°-96°.

reactant | ethyl 4-{[2-[(2,6-dichlorophenyl)imino]-1-imidazolidinyl]oxy}butyrate | ClC1=C(C(=CC=C1)Cl)N=C1N(CCN1)OCCCC(=O)OCC | C15H19Cl2N3O3
reactant | hydrochloric acid | Cl | ClH
product | methyl 4-{[2-[(2,6-dichlorophenyl)imino]-1-imidazolidinyl]oxy}butyrate | ClC1=C(C(=CC=C1)Cl)N=C1N(CCN1)OCCCC(=O)OC | C14H17Cl2N3O3
